US05455274
A stirred solution of 2-[5-[5-(4-cyanophenoxy)pentyloxy]-2-[N,N-bis(1-methylethyl)aminocarbonyl]phenoxy]-2-methylpropionic acid (1.4 g, 2.8 mmol) in 30 mL of anhydrous ethanol is treated with hydroxylamine hydrochloride (590 mg, 8.4 mmol) and 21% sodium ethoxide solution in ethanol (3.1 mL, 5.7 mmol) and stirred at 50° C. overnight. The reaction is concentrated in vacuo and purified by chromatography on silica gel (20 g) with 80-100% ethyl acetate/hexane followed by 0-10% methanol/ethyl acetate as the eluent to afford 2-[5-[5-[4-[amino(hydroxyimino)methyl]phenoxy]pentyloxy]2-[N,N-bis(1-methylethyl) -aminocarbonyl]phenoxy]-2-methylpropanoic acid sodium salt as a colorless foam;

reactant | 2-[5-[5-(4-cyanophenoxy)pentyloxy]-2-[N,N-bis(1-methylethyl)aminocarbonyl]phenoxy]-2-methylpropionic acid | 2.8 mmol, 1.4 g | C(#N)C1=CC=C(OCCCCCOC=2C=CC(=C(OC(C(=O)O)(C)C)C2)C(=O)N(C(C)C)C(C)C)C=C1 | C29H38N2O6
reactant | hydroxylamine hydrochloride | 8.4 mmol, 590 mg | Cl.NO
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethanol | 5.7 mmol, 3.1 mL | C(C)O | C2H6O
product | 2-[5-[5-[4-[amino(hydroxyimino)methyl]phenoxy]pentyloxy]2-[N,N-bis(1-methylethyl) -aminocarbonyl]phenoxy]-2-methylpropanoic acid sodium salt | [Na+].NC(C1=CC=C(OCCCCCOC=2C=CC(=C(OC(C(=O)[O-])(C)C)C2)C(=O)N(C(C)C)C(C)C)C=C1)=NO | InChI=1S/C29H41N3O7.Na/c1-19(2)32(20(3)4)27(33)24-15-14-23(18-25(24)39-29(5,6)28(34)35)38-17-9-7-8-16-37-22-12-10-21(11-13-22)26(30)31-36;/h10-15,18-20,36H,7-9,16-17H2,1-6H3,(H2,30,31)(H,34,35);/q;+1/p-1
